US07423030B2
6.2. 7-Methoxy-4-(5-methylthiophen-2-yl)-2H-phthalazin-1-one
This compound is obtained according to the procedure described in 1.2. by reacting unpurified 5-methoxy-2-(5-methylthiophene-2-carbonyl)benzoic acid with hydrazine hydrate.

reactant | 5-methoxy-2-(5-methylthiophene-2-carbonyl)benzoic acid | COC=1C=CC(=C(C(=O)O)C1)C(=O)C=1SC(=CC1)C | C14H12O4S
reactant | hydrazine hydrate | O.NN
product | 7-Methoxy-4-(5-methylthiophen-2-yl)-2H-phthalazin-1-one | COC1=CC=C2C(=NNC(C2=C1)=O)C=1SC(=CC1)C | C14H12N2O2S
